US05651919
0.6 g of sodium hydride (60%) was added to 30 ml of anhydrous N,N'-dimethylformamide. While stirring sufficiently, to the solution was added a solution of 2.13 g of trans-4-propylcyclohexanol dissolved in 10 ml of anhydrous N,N'-dimethylformamide. This mixture was continued to stirring at 50° C. for one hour and then 3.1 g of 3,4-difluorobenzyl bromide was added thereto, and the reaction was carried out at the same temperature for 3 hours with stirring. After completion of the reaction, 100 ml of water was added to the reaction mixture, the mixture was extracted with toluene, washed with a saturated NaCl aqua, dried and the solvent was removed under reduced pressure. The residue was purified by silica gel column to obtain 1.0 g of trans-4-propylcyclohexyl-3,4-difluorobenzyl ether.

reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | trans-4-propylcyclohexanol | 2.13 g | C(CC)[C@@H]1CC[C@H](CC1)O | C9H18O
reactant | 3,4-difluorobenzyl bromide | 3.1 g | FC=1C=C(CBr)C=CC1F | C7H5BrF2
reactant | water | 100 ml | O | H2O
reactant | N,N'-dimethylformamide | 10 ml | CN(C)C=O | C3H7NO
reactant | N,N'-dimethylformamide | 30 ml | CN(C)C=O | C3H7NO
product | trans-4-propylcyclohexyl-3,4-difluorobenzyl ether | 1.0 g | C(CC)[C@@H]1CC[C@H](CC1)C(C1=CC(=C(C=C1)F)F)OC(C1=CC(=C(C=C1)F)F)[C@@H]1CC[C@H](CC1)CCC | C32H42F4O
